2130-03-26 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Anion gap closed and then ? reopened, but last set of electrolytes were
   likely inaccurate.
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4.5 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-26**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37
C (98.6
   HR: 97 (96 - 125) bpm
   BP: 93/44(56) {82/36(47) - 125/81(90)} mmHg
   RR: 23 (13 - 23) insp/min
   SpO2: 100%
   Height: 64 Inch
             Total In:
                                                                  2,223 mL
                                                                    900 mL
   PO:
                                                                    480 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,743 mL
                                                                    660 mL
   Blood products:
   Total out:
                                                                  1,050 mL
                                                                    600 mL
   Urine:
                                                                    850 mL
                                                                    600 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,173 mL
                                                                    300 mL
   Respiratory support
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   Gen: A/Ox3, comfortable, conversant.
   HEENT: No icterus
   Heart: Tachycardic, regular rhythm, II/VI systolic murmur
   Lungs: Clear bilaterally
   Abd: Soft, NT,ND, BS normal
   Ext: No edema, 2+ DP and PT pulses.
   Labs / Radiology
   156 K/uL
   7.5 g/dL
   54 mg/dL
   0.8 mg/dL
   12 mEq/L
   3.4 mEq/L
   14 mg/dL
   110 mEq/L
   137 mEq/L
   25.3 %
   9.9 K/uL
        [image002.jpg]
                             [**2130-3-25**]  06:01 PM
                             [**2130-3-25**]  09:07 PM
                             [**2130-3-26**]  03:13 AM
                             [**2130-3-26**]  04:43 AM
   WBC
   9.9
   Hct
   25.3
   Plt
   156
   Cr
   1.0
   0.8
   0.8
   Glucose
   164
   120
   779
   54
   Other labs: ALT / AST:88/54, Alk Phos / T Bili:54/0.4, Amylase /
   Lipase:121/43, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL, LDH:191 IU/L,
   Ca++:6.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   24 yo F w/ DMI and Hx of recurrent DKA p/w DKA
   .
   <I>PLAN:</I>
   .
   <I>## DKA: Tachycardic, but normotensive. Given diarrhea also likely
   very behind on fluid and potassium. AG 32 on presentation. Will need to
   check VBG for pH. Given low sodium will continue to replete with NS and
   give PO potassium. Checking Q2 lytes for now. last FS glucose 280 on
   insulin drip at 6U/hr. When FS glucose 200 will switch to 3U/hr and
   start SC insulin as well as D5NS. Possibly could have been set off by
   acute stress from family situation with increased cortisol vs. acute
   gastroenteritis. Possible C.diff given recent course of cipro.
   - stool for c.diff
   - Q2 lytes then switch to Q4 once glucose<200
   - NS at 1L/hr until glucose<200 then D5NS
   - PO potassium repletion if tolerating PO.
   - Continue insulin ggt at 6U/hr until FS glucose 200 then decrease to
   3U/hr.
   .
   <I>## Recurrent DKA/poorly controlled DM:</I>Pt. has been hospitalized
   several times for this problem in the last several months. One occasion
   [**1-2**] gastroenteritis, one [**1-2**] URI, one [**1-2**] UTI. Appears infection may be
   contributing, possible that pt. does not eat enough or misses her
   insulin when she is feeling ill or stressed psychologically.
   - Stool for c.diff
   - Diabetes teaching
   - close PCP f/u
   .
   <I>## Chest tightness:</I>Resolved. EKG tachycardic w/o signs of
   ischemia. not characteristic for CAD as no actual pain but difficulty
   taking deep breath more c/w anxiety per pt.  negative stress one month
   ago at [**Hospital1 183**]. Has been r/o for MI many times w/ negative troponins. Pt.
   is however poorly controlled diabetic, will have lower threshold for
   checking cardiac enzymes.
   - continue home ASA
   .
   <I>## Diarrhea:</I>Given recent cipro would be concerning for c.diff.
   Also could be viral gastroenteritis, but denies sick contacts. U/A
   negative so doubt recurrent UTI. Very little abd pain and started after
   N/V/D, and no vaginal discharge so doubt PID.
   - stool for c.diff
   - IVF
   .
   <I>## Back pain:</I>per pt. is worse w/ psychological stress. Will try
   to avoid narcotics as would set pt. up for long term narcotics
   dependence as she will likely continue to have psychosocial stressors.
   - Outpt. f/u w/ PCP
   [**Name Initial (PRE) **] Tylenol for pain
   - Treat anxiety/depression as outpt.
   .
   <I>## FEN/Lytes:</I> NS 1L/hr, lactose free diet as tolerates, replete
   lytes prn
   .
   <I>## Prophylaxis:</I> Heparin SC 5000 tid
   .
   <I>## Code status:</I> FULL CODE
   .
   #Contact: [**Name (NI) **] [**Name (NI) 345**] (mother) [**Telephone/Fax (1) 8830**]
   .
   <I>## Dispo:</I> Pending resolution of sxs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-26**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2130-03-27 06:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  DKA
   24 Hour Events:
   - Insulin gtt turned off, transitioned to SC Insulin
   - Patient's AG closed yesterday afternoon
   - Called out to floor, no bed available yet
   - Pain control with PRN Percocet, discontinued dilaudid
   Allergies:
   Morphine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-3-27**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 91 (79 - 111) bpm
   BP: 126/76(88) {93/44(56) - 126/86(95)} mmHg
   RR: 18 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
                  Total In:
                                                                  2,497 mL
                  PO:
                                                                    600 mL
                  TF:
   IVF:
                                                                  1,897 mL
   Blood products:
   Total out:
                                                                  1,750 mL
                                                                    500 mL
   Urine:
                                                                  1,750 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    747 mL
                                                                   -500 mL
   Respiratory support
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen: A/Ox3, comfortable, conversant.
   HEENT: No icterus
   Heart: Tachycardic, regular rhythm, II/VI systolic murmur
   Lungs: Clear bilaterally
   Abd: Soft, NT,ND, BS normal
   Ext: No edema, 2+ DP and PT pulses.
   Labs / Radiology
   210 K/uL
   11.9 g/dL
   49 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.5 mEq/L
   9 mg/dL
   107 mEq/L
   139 mEq/L
   36.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2130-3-25**]  06:01 PM
                             [**2130-3-25**]  09:07 PM
                             [**2130-3-26**]  03:13 AM
                             [**2130-3-26**]  04:43 AM
                             [**2130-3-26**]  10:40 AM
                             [**2130-3-26**]  03:00 PM
                             [**2130-3-27**]  02:59 AM
   WBC
   9.9
   8.5
   Hct
   25.3
   36.1
   Plt
   156
   210
   Cr
   1.0
   0.8
   0.8
   0.8
   0.9
   0.8
   Glucose
   164
   120
   779
   54
   128
   94
   49
   Other labs: Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   24 yo F w/ DMI and Hx of recurrent DKA p/w DKA
   .
   <I>PLAN:</I>
   .
   <I>## DKA: Continues to be tachycardic, but now eating and gap much
   smaller, was closed on previous set of lytes, most recent was likely
   erroneous.
   - 1L NS bolus
   - stool for c.diff pending
   - switch to Q4 lytes
   - D5NS at 150cc/hr
   - PO potassium repletion
   - Continue insulin ggt at 3U/hr until next set of lytes shows gap
   closed.
   .
   <I>## Recurrent DKA/poorly controlled DM:</I> U/A negative, CXR
   negative, stool studies pending stool. Likely poor compliance given
   previous A1c.
   - Stool for c.diff
   - Diabetes teaching
   - close PCP f/u
   .
   <I>## Diarrhea/vomiting:</I>Resolved, no stool yet for c.diff
   - stool for c.diff
   - IVF
   .
   <I>## Back pain:</I>Resolved
   - Outpt. f/u w/ PCP
   [**Name Initial (PRE) **] Tylenol for pain
   - Treat anxiety/depression as outpt.
   .
   <I>## FEN/Lytes:</I> D5NS at 150cc/hr, lactose free diet as tolerates,
   replete lytes prn
   .
   <I>## Prophylaxis:</I> Heparin SC 5000 tid
   .
   <I>## Code status:</I> FULL CODE
   .
   #Contact: [**Name (NI) **] [**Name (NI) 345**] (mother) [**Telephone/Fax (1) 8830**]
   .
   <I>## Dispo:</I> Pending resolution of sxs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-3-26**] 12:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: